US09085606B2
Preparation of 2-(3-chloro-5-(1,3-dioxolan-2-yl)phenyl)propan-2-ol
To a solution of 2-(3-bromo-5-chlorophenyl)-1,3-dioxolane (3.34 g, 12.68 mmol) in anhydrous diethyl ether (40 mL) in a dried flask was slowly added a 1.70 M solution of tert-butyl lithium in pentane (15.0 mL, 25.50 mmol) at −78° C. under nitrogen to give a pinkish-yellow suspension. The reaction mixture was stirred at −78° C. for 45 min under nitrogen atmosphere. After 45 min, the reaction mixture was warmed to −30° C. and stirred at that temperature for 2 h. Acetone (2.0 mL, 25.35 mmol) was added drop wise to the above solution and the reaction mixture stirred at −30° C. for another 3 h. The reaction mixture was quenched with a saturated NH4Cl solution (20 mL) at −30° C. and the reaction mixture was warmed slowly to room temperature (30 min) and then diluted with diethyl ether (25.0 mL). The ether layer was separated and then washed with water (1×25 mL), dried over anhydrous Na2SO4, filtered and evaporated on the rot-yap to give a pale yellow viscous liquid (5.45 g from two runs). GC-MS analysis (EI mode) of the product shows the desired product's mass: m/z 241 (35ClM+) and m/z 243 (37ClM+), Calcd for C12H15BrClO3: 242.67. LC-MS analysis of the crude product shows the desired product's mass: m/z 243 (35ClM+H), m/z 245 (37ClM+H), m/z 225 (35ClM+H−H2O), m/z 227 (37ClM+H−H2O). 1H NMR (400 MHz, CDCl3): δ 1.54 (s, 6H, (CH3)2C—OH), 3.90-4.25 (M, 4H, 2×—CH2—O—), 5.75 (s, 1H, O—CH-0), 7.34 (s, 1H), 7.43 (d, 2H). 1H NMR spectrum of the sample was consistent with the suggested structure of the product.

reactant | 2-(3-bromo-5-chlorophenyl)-1,3-dioxolane | 12.68 mmol, 3.34 g | BrC=1C=C(C=C(C1)Cl)C1OCCO1 | C9H8BrClO2
reactant | tert-butyl lithium | C(C)(C)(C)[Li]
reactant | pentane | 25.50 mmol, 15.0 mL | CCCCC | C5H12
reactant | Acetone | 25.35 mmol, 2.0 mL | CC(=O)C | C3H6O
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | 2-(3-chloro-5-(1,3-dioxolan-2-yl)phenyl)propan-2-ol | ClC=1C=C(C=C(C1)C1OCCO1)C(C)(C)O | C12H15ClO3
